US05990101
2-(N-allyloxycarbonyl-N-aminosulfonylamino)methyl-3-methylimidazo[5,1-b]thiazole
Under an argon atmosphere at -37° C., 0.51 ml of diethyl azodicarboxylate was added dropwise to 6.7 ml of an anhydrous tetrahydrofuran solution containing 365 mg of 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole, 586 mg of N-allyloxycarbonyl-N-aminosulfonylamine and 854 mg of triphenylphosphine, and the mixture was then stirred at -37° C. to -20° C. for 110 minutes. The solvent was evaporated under reduced pressure to obtain an oil, and this oil was then suspended in 50 ml of dichloromethane. Further, the suspension was extracted with 2N hydrochloric acid (15 ml×2), and the combined aqueous layer was then washed with 20 ml of dichloromethane. After alkalified with anhydrous potassium carbonate, the solution was further extracted with dichloromethane (30 ml×3). The combined organic layer was washed with a semi-saturated saline solution, dried (anhydrous magnesium sulfate:anhydrous potassium carbonate=1:1), and then filtered, and the solvent was evaporated under reduced pressure. Afterward, the resulting oil was purified by a silica gel column chromatograph and successively Cephadex LH-20 to obtain 208.5 mg of the title compound as a milky white powder.

reactant | diethyl azodicarboxylate | 0.51 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 2-hydroxymethyl-3-methylimidazo[5,1-b]thiazole | 365 mg | OCC1=C(N2C(S1)=CN=C2)C | C7H8N2OS
reactant | N-allyloxycarbonyl-N-aminosulfonylamine | 586 mg | C(C=C)OC(=O)NS(=O)(=O)N | C4H8N2O4S
reactant | triphenylphosphine | 854 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 6.7 ml | O1CCCC1 | C4H8O
product | 2-(N-allyloxycarbonyl-N-aminosulfonylamino)methyl-3-methylimidazo[5,1-b]thiazole | 208.5 mg | C(C=C)OC(=O)N(S(=O)(=O)N)CC1=C(N2C(S1)=CN=C2)C | C11H14N4O4S2
